US05691277
Synthesis of 4-cyano-2,6-di(meta-trifluoromethylphenoxy)-pyridine (I-23)
Sodium hydride (0.31 g (ca. 60% in mineral oil), 0.0035×2.2 mol) was suspended in 20 ml of N-methyl-2-pyrrolidinone, then meta-trifluoromethyl phenol (1.24 g, 0.0035×2.2 mol) was added thereto, and the resultant solution was heated to about 60° C. and stirred for several minutes. After allowed to cool to room temperature, to the reaction solution was added 4-cyano-2,6-dichloropyridine (0.60 g, 0.0035 mol), and then the mixture was allowed to react for 1 hour at about 90° C.

reactant | Sodium hydride | 2.2 mol, 0.31 g | [H-].[Na+]
reactant | meta-trifluoromethyl phenol | 2.2 mol, 1.24 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 4-cyano-2,6-dichloropyridine | 0.0035 mol, 0.60 g | C(#N)C1=CC(=NC(=C1)Cl)Cl | C6H2Cl2N2
solvent | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cyano-2,6-di(meta-trifluoromethylphenoxy)-pyridine | C(#N)C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OC1=CC(=CC=C1)C(F)(F)F | C20H10F6N2O2
